US07915443B2
Methyl 3-[4-(N-{[6-amino-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}-S-methylsulfonimidoyl)phenyl]propanoate
6-Amino-5-((3-(3-methylfuran-2-carboxamido)phenyl)ethynyl)nicotinic acid (0.1 g, 0.277 mmol) was dissolved in DMF (2.8 mL). EDCI (0.64 g, 0.332 mmol) and DMAP (3.42 mg, 0.028 mmol) were then added and the reaction mixture was stirred at 60° C. for 20 minutes. Methyl 3-(4-(S-methylsulfonimidoyl)-phenyl)propanoate (0.068 g, 0.277 mmol) was then added, and the reaction was allowed to stir for 3 hours at 60° C. The mixture was cooled to room temperature then taken up in EtOAc (10 mL) and extracted with brine (3×10 mL). The organic layer was dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude product was then purified over silica purified via column chromatography (gradient eluant mixture of MeOH in EtOAc: 0% to 10% MeOH) to give the title compound (0.060 g, 37%).

reactant | 6-Amino-5-((3-(3-methylfuran-2-carboxamido)phenyl)ethynyl)nicotinic acid | 0.277 mmol, 0.1 g | NC1=NC=C(C(=O)O)C=C1C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C | C20H15N3O4
reactant | EDCI | 0.332 mmol, 0.64 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Methyl 3-(4-(S-methylsulfonimidoyl)-phenyl)propanoate | 0.277 mmol, 0.068 g | CS(=O)(=N)C1=CC=C(C=C1)CCC(=O)OC | C11H15NO3S
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.028 mmol, 3.42 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | Methyl 3-[4-(N-{[6-amino-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}-S-methylsulfonimidoyl)phenyl]propanoate | 0.060 g, 37% | NC1=C(C=C(C=N1)C(=O)N=S(=O)(C)C1=CC=C(C=C1)CCC(=O)OC)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C | C31H28N4O6S
